US07053107B2
[6Chloro-1-(tetrahydro-pyran-2-yl)-1H-indazol-3-yl]-methanol
To a solution of 6-Chloro-1H-indazole-3-carboxylic acid methyl ester (2.94 g, 10.0 mmol) in dry CH2Cl2 (50 mL) cooled to −78 degrees Celsius was added DIBAL-H (3.56 mL, 20.0 mmol) slowly. After the addition was complete, the reaction was allowed to warm to room temperature, where HPLC showed that there was a remaining 10% starting material. Extra DIBAL-H (0.35 mL) was then added and stirred for 10 minutes. The reaction was diluted with EtOAc (1000 mL) and washed with 1 N HCl (2×100 mL). It was further washed with 1 N NaHCO3 (100 mL), and then with saturated NaCl (100 mL). The organic was dried over Mg SO4, filtered, and then concentrated to a white solid (2.65 g, 99.5%).

reactant | 6-Chloro-1H-indazole-3-carboxylic acid methyl ester | 10.0 mmol, 2.94 g | COC(=O)C1=NNC2=CC(=CC=C12)Cl | C9H7ClN2O2
reactant | DIBAL-H | 20.0 mmol, 3.56 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 0.35 mL | CC(C)C[AlH]CC(C)C
reactant | EtOAc | 1000 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | [6Chloro-1-(tetrahydro-pyran-2-yl)-1H-indazol-3-yl]-methanol | ClC1=CC=C2C(=NN(C2=C1)C1OCCCC1)CO | C13H15ClN2O2
